US04379167
4-Chloro-1-phenoxy-2-butanol
To a mixture which contained 282 g. (3 moles) of phenol, one liter of water and 300 ml. of 50% sodium hydroxide was added slowly with stirring at 60° C. 443.36 g. (3.1 moles) of 1,4-dichlorobutanol. Stirring was continued at 60° C. for 16 hr. The resulting mixture was extracted twice with one liter of ether and the combined ether extracts were washed with water to neutrality and dried overnight over sodium sulfate. The dried ether mixture was concentrated to dryness under reduced pressure. The residue was distilled and yielded 435 g. of product which was collected at 135°-138° C./0.05 mm. The product solidified and was recrystallized using pet. ether (60°-110° C.) to give a white crystalline solid which melted at 52°-54° C.

reactant | phenol | 3 moles | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1,4-dichlorobutanol | 3.1 moles | ClC(CCCCl)O | C4H8Cl2O
solvent | water | one liter | O | H2O
product | 4-Chloro-1-phenoxy-2-butanol | ClCCC(COC1=CC=CC=C1)O | C10H13ClO2
